US07964643B2
Biphenyl-4-sulfonic acid-(4-hydroxybutyl)-(2-hydroxyethyl)-amide (ABD-189)
Biphenyl-4-sulfonic acid [2-(tert-butyl-diphenyl-silanyloxy)-ethyl]-(4-hydroxy-butyl)-amide (1 g) was dissolved in tertiarybutylammonium fluoride (15 mL of 1 M in tetrahydrafuran) and stirring for 30 minutes. The solvent was evaporated and the residue dissolved in methylene chloride, washed with water and dried over Na2SO4. The product was purified by column chromatography (ethyl acetate: light petroleum) to give the title compound. δC (DMSO, 62.9 MHz): 25.1, 29.5, 48.9, 51.2, 57.9, 60.3, 127.1, 127.2, 127.6, 128.6, 129.2, 138.1, 138.4 and 144.1.

reactant | Biphenyl-4-sulfonic acid [2-(tert-butyl-diphenyl-silanyloxy)-ethyl]-(4-hydroxy-butyl)-amide | 1 g | C(C)(C)(C)[Si](OCCN(S(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1)CCCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H41NO4SSi
solvent | tertiarybutylammonium fluoride | 1 M, 15 mL | [F-].C(C)(C)(C)[NH3+]
product | Biphenyl-4-sulfonic acid-(4-hydroxybutyl)-(2-hydroxyethyl)-amide | OCCCCN(S(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1)CCO | C18H23NO4S
